US06943172B2
Preparation of 2-amino-4-chloro-6-(2-furyl)pyrimidine
A solution of 2-amino-4-hydroxy-6-(2-furyl)pyrimidine (1.40 g, 7.9 mmol) in POCl3 (4 mL) was refluxed under argon for 2 h. The POCl3 was distilled; the residue was diluted with EtOAc and poured over iced saturated NaHCO3. The layers were separated and the aqueous was extracted with EtOAc (100 mL). The combined extracts was washed with saturated NaCl, dried (MgSO4), and the solvent removed at reduced pressure to afford 0.5 g of crude product, which was used without further purification. TLC (20% EtOAc/80% hexane) Rf 0.26; 1H-NMR (DMSO-d6) δ 6.68 (dd, J=1.7, 3.4 Hz, 1H), 6.94 (s, 1H), 7.25 (dd, J=1, 3.7 Hz, 1H), 7.91 (dd, J=0.8, 1.9 Hz, 1H).

reactant | 2-amino-4-hydroxy-6-(2-furyl)pyrimidine | 7.9 mmol, 1.40 g | NC1=NC(=CC(=N1)O)C=1OC=CC1 | C8H7N3O2
reactant | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-amino-4-chloro-6-(2-furyl)pyrimidine | 0.5 g | NC1=NC(=CC(=N1)Cl)C=1OC=CC1 | C8H6ClN3O
